* =========================================================
* Dual-triode wrapper for KiCad
* =========================================================
.include "/Users/Andrew/Documents/ghprojects/2-bach/SPICE/12AT7EH.i5.sub.txt"
.subckt 12AT7_DUAL P1 G1 K1 P2 G2 K2

XTRI1 P1 G1 K1 12AT7EH_i5
XTRI2 P2 G2 K2 12AT7EH_i5

.ends 12AT7_DUAL