* Hammond 269AAX power transformer
* Regulation-aware first-order linear model
*
* Pinout:
* 1 = WHT      primary common / 0V
* 2 = GRY      115V primary tap
* 3 = BLK      125V primary tap
* 4 = RED      HT secondary end
* 5 = RED/YEL  HT secondary centre tap
* 6 = RED      HT secondary end
* 7 = GRN      heater secondary end
* 8 = GRN/YEL  heater secondary centre tap
* 9 = GRN      heater secondary end

.subckt HAMMOND_269AAX 1 2 3 4 5 6 7 8 9

* Primary is modelled as two coupled series sections:
* 1-2 = 115V winding
* 2-3 = additional 10V winding section
*
* DCR:
* 1-2 = 5.557R
* 1-3 = 6.134R
* therefore 2-3 ≈ 0.577R

Rp115 1 p115 5.557
Lp115 p115 2 10H

Rp10  2 p10 0.577
Lp10  p10 3 75.6mH

* HT secondary, regulation-aware
RHT1 4 ht1 26.6
LHT1 ht1 5 8.60H

RHT2 6 ht2 26.6
LHT2 ht2 5 8.60H

* Heater secondary, regulation-aware
RH1 7 h1 0.0915
LH1 h1 8 8.63mH

RH2 9 h2 0.0915
LH2 h2 8 8.63mH

* Complete coupling matrix
K01 Lp115 Lp10  0.995
K02 Lp115 LHT1  0.995
K03 Lp115 LHT2  0.995
K04 Lp115 LH1   0.995
K05 Lp115 LH2   0.995
K06 Lp10  LHT1  0.995
K07 Lp10  LHT2  0.995
K08 Lp10  LH1   0.995
K09 Lp10  LH2   0.995
K10 LHT1  LHT2  0.995
K11 LHT1  LH1   0.995
K12 LHT1  LH2   0.995
K13 LHT2  LH1   0.995
K14 LHT2  LH2   0.995
K15 LH1   LH2   0.995

.ends HAMMOND_269AAX