* =========================================================
* Dual-triode wrapper for KiCad
* =========================================================
.include "/Users/Andrew/Documents/ghprojects/2-bach/SPICE/Ayumi_LTspice/12AU7.inc"
.subckt 12AU7_DUAL P1 G1 K1 P2 G2 K2

XTRI1 P1 G1 K1 12AU7
XTRI2 P2 G2 K2 12AU7

.ends 12AU7_DUAL